*
.SUBCKT MCP6001 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Supply
*               | | Positive Supply
*               | Inverting Input
*               Non-inverting Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* "Company") is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN "AS IS" CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* Macromodel for the MCP6001/2/4 op amp family:
*   MCP6001,MCP6002,MCP6004
*
* Revision History:
*   REV A: 21-Jun-02, Created model
*   REV B: 16-Jul-02, Improved output stage
*   REV C: 03-Jan-03, Added MCP6001
*   REV D: 19-Aug-06, Added over temperature, improved output stage, 
*                     fixed overdrive recovery time
*   REV E: 27-Jul-07, Updated output impedance for better model stability w/cap load
*
* Recommendations:
*   Use PSPICE (other simulators may require translation)
*   For a quick, effective design, use a combination of: data sheet
*     specs, bench testing, and simulations with this macromodel
*   For high impedance circuits, set GMIN=100F in .OPTIONS
*
* Supported:
*   Typical performance for temperature range (-40 to 125) degrees Celsius
*   DC, AC, Transient, and Noise analyses.
*   Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*     open loop gain, voltage ranges, supply current, ... , etc.
*   Temperature effects for Ibias, Iquiescent, Iout short circuit 
*   current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*   Some Variation in specs vs. Power Supply Voltage
*   Monte Carlo (Vos, Ib), Process variation
*   Distortion (detailed non-linear behavior)
*   Behavior outside normal operating region
*
* Input Stage
V10  3 10 -500M
R10 10 11 6.90K 
R11 10 12 6.90K 
C11 11 12 0.2p
C12 1  0 6.00P 
E12 71 14 POLY(4) 20 0 21 0 26 0 27 0   1.00M 20.1 20.1 1 1
G12 1 0 62 0 1m 
M12 11 14 15 15 NMI L=2.00U W=42.0U
M14 12  2 15 15 NMI L=2.00U W=42.0U
G14 2 0 62 0 1m 
C14  2  0 6.00P 
I15 15  4 50.0U
V16 16  4 -300M
GD16 16 1 TABLE {V(16,1)} ((-100,-1p)(0,0)(1m,1n)(2m,1m)(3m,1)) 
V13  3 13 -300M
GD13 2 13 TABLE {V(2,13)} ((-100,-1p)(0,0)(1m,1n)(2m,1m)(3m,1)) 
R70 1 0 20.6T  
R71 2 0 20.6T 
R72 1 2 20T 
I80 1 2 0.5p
*
* Noise, PSRR, and CMRR
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
G26  0 26 POLY(1) 3 4   110U -49U
R26 26  0 1
G27  0 27 POLY(2) 1 0 2 0   -440U 39.7U 39.7U
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 POLY(1) 12 11   0 1
R30 30  0 1K
G31  0 31 POLY(1) 3 4 86 5.25
R31 31  0 1 TC=2.8m
GD31 30 31 TABLE {V(30,31)} ((-11,-1)(-10,-10n)(0,0)(1m,1000))
G32 32  0 POLY(1) 3 4 113.7 3.5
R32 32  0 1 TC=2.65m
GD32 30 32 TABLE {V(30,32)} ((-1m,-1000)(0,0)(10,10n)(11,1))
G33 0 33 30 0 1m
R33 33 0 1k
G34  0 34 33 0 425M
R34  34 0 1K
C34  34 0 74U
G37  0 37 34 0 1m
R37  37 0 1K
C37  37 0 41.6P 
G38  0 38 37 0 1m
R38  39 0 1K
L38  38 39 100U
E38  35 0 38 0 1
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(16,1n))(16.1,1))
G36 33 0 TABLE {V(35,4)} ((-16.1,-1)((-16,-1n)(0,0)(1,1n))
*
* Output Stage 
R80 50 0 100MEG
G50 0 50 57 96 2
R58 57  96 0.50
R57 57  0 750
C58  5  0 2.00P
G57  0 57 POLY(3) 3 0 4 0 35 0   0 0.67M 0.67M 1.5M
GD55 55 57 TABLE {V(55,57)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
GD56 57 56 TABLE {V(57,56)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
E55 55  0 POLY(2) 3 0 51 0 -0.7m 1 -40.0M
E56 56  0 POLY(2) 4 0 52 0 1.2m 1 -37.0M
R51 51 0 1k
R52 52 0 1k
GD51 50 51 TABLE {V(50,51)} ((-10,-1n)(0,0)(1m,1m)(2m,1))
GD52 50 52 TABLE {V(50,52)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n)) 
G53  3  0 POLY(1) 51 0  -49U 1M
G54  0  4 POLY(1) 52 0  -49U -1M
*
* Current Limit 
G99 96 5 99 0 1 
R98 0 98 1 TC=-2.8M,2.63U 
G97 0 98 TABLE { V(96,5) } ((-11.0,-10.0M)(-1.00M,-9.9M)(0,0)(1.00M,9.9M)(11.0,10.0M)) 
E97 99 0 VALUE { V(98)*((V(3)-V(4))*359M + 310M)} 
D98 4 5 DESD 
D99 5 3 DESD 
*
* Temperature / Voltage Sensitive IQuiscent
R61 0 61 100 TC 3.11M 4.51U
G61 3 4 61 0 1
G60 0 61 TABLE {V(3, 4)} 
+ ((0,0)(900M,0.0106U)(1.00,0.20U)(1.3,0.63U)
+ (1.5,0.66U)(1.6,1.06U)(5.5,1.10U))
*
* Temp Sensitive offset voltage 
I73 0 70 DC 1uA 
R74 0 70 1 TC=2 
E75 1 71 70 0 1 
*
* Temp Sensistive IBias 
I62 0 62 DC 1uA 
R62 0 62 REXP 58.2u 
* Voltage on R62 used for G12, G14 in input stage
*
* Models
.MODEL NMI NMOS
.MODEL DESD  D   N=1 IS=1.00E-15 
.MODEL DL  D   N=1 IS=1F 
.MODEL DN1 D   IS=1P KF=146E-18 AF=1
.MODEL REXP RES TCE=10.1 
.ENDS MCP6001
*
*
*
.SUBCKT MCP601 1 2 3 4 5
*              | | | | |
*              | | | | Output
*              | | | Negative Supply
*              | | Positive Supply
*              | Inverting Input
*              Non-inverting Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following op-amps are covered by this model:
*      MCP601,MCP602,MCP603,MCP604
*
* Revision History:
*   REV A: 30-Jun-99, BCB (created model)
*   REV B: 10-Jul-99, BCB (corrected DC Iq)
*   REV C: 30-Nov-99, BCB (".subckt" on first line, moved L, W to model)
*   REV D: 17-Jul-02, KEB (improved model)
*   REV E: 27-Aug-06, HNV (added over temperature, improved output stage, 
*                         fixed overdrive recovery time)
*                         (MC_RQ, 27-Aug-06, Level 1.17) 	             
*       
* Recommendations:
*      Use PSPICE (other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit 
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      Chip select (MCP603)
*      Some Variation in specs vs. Power Supply Voltage
*      Monte Carlo (Vos, Ib),Process variation  
*      Distortion (detailed non-linear behavior)
*      Behavior outside normal operating region
*
* Input Stage	
V10  3 10 1.00	
R10 10 11 771K	 
R11 10 12 771K	
G10 10 11 10 11 129U	
G11 10 12 10 12 129U	
C11 11 12 2P
C12  1  0 6P	
E12 71 14 POLY(4) 20 0 21 0 26 0 27 0 1.00M 15 15 1 1	
G12 1 0 62 0 1m	
M12 11 14 15 15 NMI
G13 1 2 62 0 .015m 	
M14 12 2 15 15 NMI 	
G14 2 0 62 0 1m	
C14  2  0 6P	
I15 15 4 40.0U	
V16 16 4 -300M	
GD16 16 1 TABLE {V(16,1)} ((-100,-1p)(0,0)(1m,1u)(2m,10m)) 	
V13 3 13 1.2	
GD13 2 13 TABLE {V(2,13)} ((-100,-1p)(0,0)(1m,1u)(2m,10m)) 	
R71  1  0 20.0E12	
R72  2  0 20.0E12	
R73  1  2 20.0E12	
I80  1  2 400F	
*	
* Noise, PSRR, and CMRR	
I20 21 20 423U	
D20 20  0 DN1	
D21  0 21 DN1	
G26  0 26 POLY(2) 3 0 4 0   0.00 -50.1U -63.0U	
R26 26  0 1
E271 275 0 1 0 1
E272 276 0 2 0 1
R271 275 271 12k
R272 276 272 12k
R273 271 0 1k
R274 272 0 1k
C271 275 271 8.5p
C272 276 272 8.5p
G27  0 27 POLY(2) 271 0 272 0  -555U 100U 100U	
R27 27  0 1	
*	
* Open Loop Gain, Slew Rate	
G30  0 30 12 11 1	
R30 30  0 1.00K	
I31 0 31 DC 109.7	
R31 31  0 1 TC=-3.87M,-2.12U	
GD31 30 0 TABLE {V(30,31)} ((-100,-1n)(0,0)(1m,0.1)(2m,2))	
I32 32 0 DC 120	
R32 32  0 1 TC=-3.71M,-4.74U	
GD32 0 30 TABLE {V(30,32)} ((-2m,2)(-1m,0.1)(0,0)(100,-1n))	
G33  0 33 30 0 1m	
R33  33 0 1K	
G34  0 34 33 0 334M	
R34  34 0 1K	
C34  34 0 17.4U	
G37  0 37 34 0 1m	
R37  37 0 1K	
C37  37 0 27P
G38  0 38 37 0 1m	
R38  39 0 1K	
L38  38 39 44U
E38  35 0 38 0 1	
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(5,1n))(6,1))	
G36 33 0 TABLE {V(35,4)} ((-5,-1)((-4,-1n)(0,0)(1,1n))	
*	
* Output Stage	
R80 50 0 100MEG	
G50 0 50 57 96 2	
R58 57  96 0.50	
R57 57  0 500	
C58  5  0 2.00P	
G57  0 57 POLY(3) 3 0 4 0 35 0   0 0.2M 0.22M 2.00M	
GD55 55 57 TABLE {V(55,57)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))	
GD56 57 56 TABLE {V(57,56)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))	
E55 55  0 POLY(2) 3 0 51 0 -2.4M 1 -58.8M	
E56 56  0 POLY(2) 4 0 52 0 1.7M 1 -32.3M	
R51 51 0 1k	
R52 52 0 1k		
GD51 50 51 TABLE {V(50,51)} ((-10,-1n)(0,0)(1m,1m)(2m,1))		
GD52 50 52 TABLE {V(50,52)}  ((-2m,-1)(-1m,-1m)(0,0)(10,1n))		
G53  3  0 POLY(1) 51 0  -40.0U 1M		
G54  0  4 POLY(1) 52 0  -40.0U -1M		
*		
* Current Limit		
G99 96 5 99 0 1		
R98 0 98 1 TC=-4.33M,9.53U		
G97 0 98 TABLE { V(96,5) } ((-11.0,-15.0M)(-1.00M,-14.8M)(0,0)(1.00M,14.8M)(11.0,15.0M))		
E97 99 0 VALUE { V(98)*((V(3)-V(4))*233M + 183M)}		
D98 4 5 DESD		
D99 5 3 DESD		
*		
* Temperature / Voltage Sensitive IQuiscent		
R61 0 61 1 TC=-3.20M,-8.90U		
G61 3 4 61 0 1		
G60 0 61 TABLE {V(3, 4)} 		
+ ((0,0)(900M,0.1U)(1.1,10.0U)(1.3,40.0U)		
+ (1.6,60.0U)(2.5,200U)(5.5,220U))		
*		
* Temperature Sensistive offset voltage		
I73 0 70 DC 1uA		
R74 0 70 1 TC=2.5		
E75 1 71 70 0 1 		
*		
* Temp Sensistive IBias		
I62 0 62 DC 1uA		
R62 0 62 REXP 99U		
*		
* Models		
.MODEL NMI NMOS(L=2.00U W=42.0U KP=20.0U LEVEL=1 )		
.MODEL DESD  D   N=1 IS=1.00E-15		
.MODEL DN1 D   IS=1P KF=0.35F AF=1		
.MODEL REXP RES TCE= 9.1		
.ENDS MCP601		
*
*
*
.SUBCKT MCP616 1 2 3 4 5
*              | | | | |
*              | | | | Output
*              | | | Negative Supply
*              | | Positive Supply
*              | Inverting Input
*              Non-inverting Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following op-amps are covered by this model:
*      MCP616, MCP617, MCP618, MCP619
*
* Revision History:
*   REV A: 23-Feb-01, Created model
*   REV B: 19-Jul-02, Improved model 
*   REV C: 13-Sep-06, Added over temperature, improved output stage, 
*                     fixed overdrive recovery time
*   REV D: 27-Jul-07, Updated output impedance for better model stability w/cap load
*
* Recommendations:
*      Use PSPICE (other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit 
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      Chip Select (MCP618)
*      Some Variation in specs vs. Power Supply Voltage
*      Monte Carlo (Vos, Ib), Process variation
*      Distortion (detailed non-linear behavior)
*      Behavior outside normal operating region
*
* Input Stage
V10  3 10 0.68
R10 10 11 1.54MEG
R11 10 12 1.54MEG
G10 10 11 10 11 64.8U
G11 10 12 10 12 64.8U
C11 11 12 12P
C12  1  0 3.70P
E12 71 14 POLY(6) 20 0 21 0 22 0 23 0 26 0 27 0
+ 120U 6.85 6.85 4.2 4.2 1 1
G12 1 0 62 0 -1m
G13 1 2 63 0 1m
M12 11 14 15 15 NMI 
M14 12 2 15 15 NMI 
G14 2 0 62 0 -1m
C14  2  0 3.70P
I15 15 4 10.0U
V16 16 4 -10m
GD16 16 1 TABLE {V(16,1)} ((-100,-1p)(0,0)(1m,1u)(2m,1m)) 
V13 3 13 880M
GD13 2 13 TABLE {V(2,13)} ((-100,-1p)(0,0)(1m,1u)(2m,1m)) 
R71  1  0 600MEG
R72  2  0 600MEG
R73  1  2 3.00MEG
I80  1  2 75.0P
*
* Noise, PSRR, and CMRR
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
I22 22 23 1N
R22 22 0  1k
R23  0 23 1k
G26  0 26 POLY(2) 3 0 4 0   0.00 -2.2U -6.2U
R26 26  0 1
G27  0 27 POLY(2) 1 0 2 0  -61.7U 3U 3U
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 12 11 1
R30 30  0 1K
G31 0 31 3 4 0.00
I31 0 31 DC 64.0
R31 31  0 1.06 TC=2.2M,-1U
GD31 30 0 TABLE {V(30,31)} ((-100,-1n)(0,0)(1m,0.1)(2m,2))
G32 32 0 3 4 0.00
I32 32 0 DC 53.8
R32 32  0 1.06 TC=2.3M,-1U
GD32 0 30 TABLE {V(30,32)} ((-2m,2)(-1m,0.1)(0,0)(100,-1n))
G33  0 33 30 0 1m
R33  33 0 1K
G34  0 34 33 0 1.77
R34  34 0 1K
C34  34 0 1.49M
G37  0 37 34 0 1m
R37  37 0 1K
C37  37 0 1.8N
G371  0 371 37 0 1m
R371  371 0 1K
C371  371 0 62P
G38  0 38 371 0 1m
R38  39 0 1K
L38  38 39 1.8M
E38  35 0 38 0 1
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(120,1n))(121,1))
G36 33 0 TABLE {V(35,4)} ((-121,-1)((-120,-1n)(0,0)(1,1n))
*
* Output Stage
R80 50 0 100MEG
G50 0 50 57 96 2
R58 57  96 0.50
R57 57  0 5000
C58  5  0 2.00P
G57  0 57 POLY(3) 3 0 4 0 35 0   0 75U 75U 200U
GD55 55 57 TABLE {V(55,57)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
GD56 57 56 TABLE {V(57,56)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
E55 55  0 POLY(2) 3 0 51 0 -0.7M 1 -61.1M
E56 56  0 POLY(2) 4 0 52 0 1M 1 -51.3M
R51 51 0 1k
R52 52 0 1k
GD51 50 51 TABLE {V(50,51)} ((-10,-1n)(0,0)(1m,1m)(2m,1))
GD52 50 52 TABLE {V(50,52)}  ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
G53  3  0 POLY(1) 51 0  -9.65U 1M
G54  0  4 POLY(1) 52 0  -9.65U -1M
*
* Current Limit
G99 96 5 99 0 1
R98 0 98 1 TC=-5.41M,11.3U
G97 0 98 TABLE { V(96,5) } ((-11.0,-8.7M)(-1.00M,-8.61M)(0,0)(1.00M,8.61M)(11.0,8.7M))
E97 99 0 VALUE { V(98)*((V(3)-V(4))*298M + 314M)}
D98 4 5 DESD
D99 5 3 DESD
*
* Temperature / Voltage Sensitive IQuiscent
R61 0 61 1 TC=3.0M,-3U
G61 3 4 61 0 1
G60 0 61 TABLE {V(3, 4)} 
+ ((0,0)(800M,10N)(1.3,13.2U)(1.5,14.3U)
+ (1.6,13.9U)(2.1,17.4U)(5.5,19.4U))
*
* Temperature Sensitive offset voltage
I73 0 70 DC 1uA
R74 0 70 1 TC=2.5
E75 1 71 70 0 1 
*
* Temp Sensistive IBias
I62 0 62 DC 1uA
R62 0 62 16.6 TC=-4.5M,20U
I63 0 63 DC 1uA
R63 0 63 180m TC=-16.4M,25U
*
* Models
.MODEL NMI NMOS(L=2.00U W=42.0U KP=20.0U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15
.MODEL DN1 D   IS=1P KF=146E-18 AF=1
.ENDS MCP616
*
*
*



